US07906517B2
Ethyl 3-{[[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-benzonitrile (250 mg) and 4-bromobutyrate (76.9 μl) is dissolved in N,N-dimethylformamide (3.7 ml) and thereto is added potassium carbonate (74 mg) and the mixture is stirred at room temperature overnight. Thereto are added ethyl acetate and a saturated brine, and the mixture is separated, and the organic layer is washed with a saturated brine, dried and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=8:1) to give ethyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (220 mg). MS (m/z): 678 [M+H]+

reactant | Ethyl 3-{[[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-5-trifluoromethyl-benzonitrile | 250 mg | C(C)C1=C(C#N)C=C(C=C1CN(C1=NC=C(C=N1)O)CC1=C(C=CC(=C1)C(F)(F)F)N(CCC)CC1CC1)C(F)(F)F | C30H31F6N5O
reactant | 4-bromobutyrate | 76.9 μl | BrCCCC(=O)[O-]
reactant | potassium carbonate | 74 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3.7 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(2-{(3-cyano-5-trifluoromethyl-benzyl)-[2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 220 mg | C(#N)C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(CCC)CC2CC2)C=C(C1)C(F)(F)F | C34H37F6N5O3
